2181-10-25 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2181-10-25**] 12:30 AM
 MULTI LUMEN - START [**2181-10-25**] 12:31 AM
   - Persistently hypotensive, restarted on dopamine.
   - Arterial line placed
   - UA with pyuria.
   - Started on vancomycin and ceftriaxone.
   - Increased O2 requirement to 5L facemask
   Allergies:
   Bacitracin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-25**] 05:01 AM
   Vancomycin - [**2181-10-25**] 06:02 AM
   Infusions:
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-25**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 88 (83 - 93) bpm
   BP: 100/48(67) {98/48(67) - 100/52(69)} mmHg
   RR: 20 (11 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 100 kg
    CVP: 8 (7 - 14)mmHg
   Total In:
                                                                    361 mL
   PO:
   TF:
   IVF:
                                                                    361 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    135 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General: Lethargic, unable to stay awake.
   HEENT: PERRL, OP clear
   Neck: RIJ in place
   Lungs: Rales bilaterally (R>L). Decreased breath sounds at left base.
   Transmitted upper airway sounds including wheezes.
   Heart: muffled heart sounds, + soft systolic murmur, no S3, S4
   Abd: + BS, S/NT/ND
   Extremities: BL 2+ pitting edema; pulses intact BL
   Neuro: Lethargic, able to follow simple commands.
   Labs / Radiology
   171 K/uL
   8.4 g/dL
   106 mg/dL
   2.5 mg/dL
   32 mEq/L
   4.3 mEq/L
   45 mg/dL
   96 mEq/L
   136 mEq/L
   26.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2181-10-25**]  04:24 AM
   WBC
   8.5
   Hct
   26.4
   Plt
   171
   Cr
   2.5
   Glucose
   106
   Other labs: PT / PTT / INR:30.5/51.4/3.1, ALT / AST:19/22, Alk Phos / T
   Bili:38/1.9
   Imaging: CXR:
   1. Left retrocardiac opacity is worrisome for left lower lobe
   pneumonia. A
   lateral view may be obtained for confirmation.
   2. Cardiomegaly with mild congestion, possible small bilateral
   effusions.
   Microbiology: Urine - NGTD
   Blood - NGTD
   Assessment and Plan
   Mr. [**Known lastname 3453**] is a 79 year old gentleman with a PMH significant for COPD
   on 2-3L home O2, recent PE on coumadin s/p IVF filter placement, and
   recent NSTEMI medically managed admitted for 4-5 days of SOB,
   nonproductive cough, and hypotension.
   .
   # Hypotension: Differential diagnosis at this time includes
   decompensated heart failure/cardiogenic shock and less likely sepsis.
   Patient with known CHF with EF of 30% now with increased dry weight by
   10 lbs. Potential infectious sources include urosepsis versus
   pneumonia. Patient does have significant pyuria, but is unable to give
   clear urinary symptoms at home including dysuria or polyuria.  Patient
   with CXR in ED consistent with bilateral pleural effusions and
   increased retrocardiac opacity concerning for effusion versus
   pneumonia, although patient with recently treated CAP as outpatient
   with azithromycin.  Patient also has history of PE, but this is less
   likely to be new PE causing cor pulmonale given therapeutic INR and
   recent IVC filter placement.
   - Check mixed venous O2 sat
   - Continue dopamine, add dobutamine.
   - Lasix gtt with goal TBB -1000 liters today
   - Cardiology consult for recommendations regarding decompensated heart
   failure..
   - TTE today
   - Hold off on anti-hypertensives
   - Discontinue vancomycin, continue ceftriaxone.
   .
   # Dyspnea: Likely multifactorial including fluid overload in patient
   with known systolic heart failure, possibly secondary to ARF from lasix
   and baseline COPD although without signs of exacerbation including
   wheezes.
   - Lasix gtt/dobutamine/dopamine as above.
   - Ipratropium/albuterol nebs prn
   - Wean supplemental O2 to home requirement 2-3L
   - Daily weight check, free water restriction (1L)
   - Hold off on steroids for now.
   .
   # CAD: Recent NSTEMI that was medically managed.  ECG without evidence
   of acute ischemia and patient without chest pain.
   - Continue ASA, plavix, statin
   - Hold anti-hypertensives
   .
   # ARF: FeUrea 21.3%, suggesting that acute renal failure is due to
   pre-renal azotemia consistent with decreased renal perfusion/forward
   flow from decompensated heart failure.  Baseline creatinine 1-1.2.
   - trend Cr
   - Renally dose meds, avoid nephrotoxins
   .
   # UTI: Continue ceftriaxone for 7 days ([**1-15**]),
   .
   # Anemia: Baseline hct of 30-40, now with hct of 26.4 with MCV 95 with
   unknown etiology to acute decrease.
   - Guaiac all stools
   - Hemolysis labs
   - Recheck hct Q12H.  Would consider transfusing for hct<25 given recent
   NSTEMI, but this will be difficult given patient
s volume status.
   .
   # Pulmonary embolism: Patient with multiple PE in [**7-17**] currently on
   coumadin with mildly supratherapeutic INR.
   - Continue coumadin.
   .
   # EtOH abuse: Past history of EtOH use.
   - Continue thiamine, folate
   .
   # FEN: Cardiac/low Na diet, fluid restriction as above, replete as
   necessary
   .
   # PPx: coumadin with mildly supratherapeutic INR, PPI
   .
   # CODE: DNR/DNI, confirmed with patient
   .
   # Contacts: daughter [**Name (NI) 16**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 3454**]; HCP is daughter [**Name (NI) 263**]
   [**Name (NI) 3455**] who lives in [**State **] [**Telephone/Fax (1) 3456**]
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-25**] 12:31 AM
   20 Gauge - [**2181-10-25**] 12:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: